US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperidin-4-ylmethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)benzyl)piperidine-1-carboxylate (50 mg, 0.088 mmol) was deprotected in methanol/ether HCl (5/1 ml). This afforded 40 mg (90.9% yield) of the titled compound. 1H NMR (DMSO-d6, 300 MHz): δ 11.9 (s, 1H), 8.75-8.65 (bs, 1H), 8.53-8.52 (d, 1H), 8.42-8.38 (m, 2H), 7.98 (s, 1H), 7.78-7.77 (d, 2H), 7.62-7.57 (m, 2H), 7.43-7.35 (m, 2H), 7.19-7.05 (m, 4H), 5.40 (s, 2H), 3.23-3.18 (d, 2H), 2.80-2.54 (m, 5H), 2.25-2.15 (bs, 1H), 1.76-1.71 (d, 2H), 1.45-1.30 (m, 2H). MS: m/z=466.2 (M+1), HPLC: 97.04% in method A.

reactant | tert-butyl 4-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)benzyl)piperidine-1-carboxylate | 0.088 mmol, 50 mg | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(CC2CCN(CC2)C(=O)OC(C)(C)C)C=CC3)C=CC1 | C34H36FN5O2
solvent | methanol ether HCl | 1 ml | CO.CCOCC.Cl
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperidin-4-ylmethyl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 40 mg, 90.9% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)CC3CCNCC3)C=CC1 | C29H28FN5
